US04145538
Preparation of 7-(2-(2-Thienyl)acetamido)-3-Carbamoyloxymethyl-3-Cephem-4-Carboxylic Acid
To a solution of 100 milligrams (0.6 millimole) of 2-thiopheneacetyl chloride in 5 milliliters of absolute methylene chloride was added slowly a slurry of 137 milligrams (0.5 millimole) of 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid and 86 milligrams (0.9 millimole) of triethylamine in 10 milliliters of absolute methylene chloride. The addition was carried out at -15° C., with stirring. After the addition, stirring was continued for two hours at -15° C. and for one and one-half hours at room temperature. The reaction mixture was then cooled and filtered to separate the precipitated solid. The solid, 80 milligrams, was analyzed on bioautogram. Bioautogram showed that approximately 50 percent of the sample was 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid and another 50 percent was the desired 7-(2-(2-thienyl)acetamido)-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid.

reactant | 2-thiopheneacetyl chloride | 0.6 millimole, 100 milligrams | S1C(=CC=C1)CC(=O)Cl | C6H5ClOS
reactant | 7-amino-3-carbamoyloxymethyl-3-cephem-4-carboxylic acid | 0.5 millimole, 137 milligrams | NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C9H11N3O5S
reactant | triethylamine | 0.9 millimole, 86 milligrams | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 5 milliliters | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 10 milliliters | C(Cl)Cl | CH2Cl2
product | 7-(2-(2-Thienyl)acetamido)-3-Carbamoyloxymethyl-3-Cephem-4-Carboxylic Acid | S1C(=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2)COC(N)=O)C(=O)O)C1=O | C15H15N3O6S2
